US08835598B2
5-(2-Hexyldecyl)-2-thiophenecarbonyl chloride (4)
5-(2-Hexyldecyl)-2-thiophenecarboxylic acid (1.00 g, 2.84 mmol., 1.00 equiv.) and CH2Cl2 (5 mL) were added to a 10 mL schlenk flask. The solution was cooled to 0° C. Oxalyl chloride (0.60 mL, 6.5 mmol, 2.3 equiv.) was then added. The ice/water bath was left in place and the solution was stirred for 64 hours while warming to room temperature. The reaction mixture was concentrated to a clear brown liquid (931 mg, 88% yield). 1H NMR (400 MHz, CDCl3) δ 7.84 (d, J=3.9 Hz, 1H), 6.87 (d, J=3.8 Hz, 1H), 2.81 (d, J=6.7, 2H), 1.68 (b, 1H), 1.34-1.19 (m, 24H), 0.93-0.85 (m, 6H).

reactant | 5-(2-Hexyldecyl)-2-thiophenecarboxylic acid | 2.84 mmol, 1.00 g, 1.00 equiv. | C(CCCCC)C(CC1=CC=C(S1)C(=O)O)CCCCCCCC | C21H36O2S
reactant | Oxalyl chloride | 6.5 mmol, 0.60 mL, 2.3 equiv. | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 5-(2-Hexyldecyl)-2-thiophenecarbonyl chloride | 931 mg, 88% yield | C(CCCCC)C(CC1=CC=C(S1)C(=O)Cl)CCCCCCCC | C21H35ClOS
